US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[2-(methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1609)
Potassium carbonate (275 mg) was added to a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[2-(methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}piperidine hydrochloride (347 mg) in methanol (10 ml). After being stirred at room temperature for 15 minutes, the mixture was diluted with ethyl acetate, and the reaction was quenched by addition of water. The organic layer was separated, washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure followed by purification of the residue by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 35/65, v/v) to afford the title compound (185 mg, yield: 58%) as a colourless amorphous solid.

reactant | Potassium carbonate | 275 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[2-(methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}piperidine hydrochloride | 347 mg | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1N=NN(N1)CC(=O)OC
reactant | acetonitrile | 0.024 N | C(C)#N | C2H3N
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[2-(methoxycarbonylmethyl)-2H-tetrazol-5-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 185 mg, yield: 58% | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N=NN(N1)CC(=O)OC)=O | InChI=1S/C21H24FN5O3S.ClH/c1-30-19(28)12-27-24-18(23-25-27)10-14-11-26(9-8-17(14)31)20(21(29)13-6-7-13)15-4-2-3-5-16(15)22;/h2-5,10,13,17,20,31H,6-9,11-12H2,1H3;1H/b14-10+;
